US03934008
19. Z-Asp(OtBu)-Phe-OCH3
3.0 g of phenylalanine methyl ester hydrochloride together with 6.17 g of Z-Asp(OtBu)-ONP are dissolved in 25 ml of absolute N,N-dimethylformamide to give a clear solution and are mixed with 1.93 ml of triethylamine whilst stirring. The deep yellow solution is stirred overnight at room temperature, is then taken up in a large amount of ethyl acetate, and is washed 3 times with dilute aqueous citric acid solution, 5 times with dilute aqueous soda solution and finally with saturated aqueous sodium chloride solution until the wash liquid remains neutral. After drying over sodium sulphate the solution is evaporated and the resulting oil, which is soluble in ether and in chloroform, is purified by column chromatography on silica gel (the substance is eluted with toluene and toluene/ether, 4 : 1); a colourless oily product is obtained.

reactant | phenylalanine methyl ester hydrochloride | 3.0 g | Cl.COC([C@@H](N)CC1=CC=CC=C1)=O
reactant | Z-Asp(OtBu)-ONP | 6.17 g | CC(C)(C)OC(=O)C[C@@H](C(=O)OC1=CC=C(C=C1)[N+](=O)[O-])NC(=O)OCC2=CC=CC=C2 | C22H24N2O8
reactant | triethylamine | 1.93 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | Z-Asp(OtBu)-Phe-OCH3 | N([C@@H](CC(OC(C)(C)C)=O)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)OC)C(=O)OCC1=CC=CC=C1 | C26H32N2O7
